US05254565
A mixture of 2-amino-2'-chloro-3,5-dimethylbenzophenone (2.59 g), methyl 3,3-dimethoxypropionate (3.7 g), p-toluenesulfonic acid hydrate (0.19 g) and benzene (30 ml) was refluxed for 16 hrs., with removal of water by a Dien-Stark apparatus. The mixture was distilled to remove the solvent, and the residue was purified by a column chromatography on silica gel to give methyl 4-(2-chlorophenyl)-6,8-dimethyl-3-quinolinecarboxylate as crystals (1.90 g, 58.5%), which was recrystallized from isopropyl ether as colorless prisms. m.p. 117°-118° C.

reactant | 2-amino-2'-chloro-3,5-dimethylbenzophenone | 2.59 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1C)C | C15H14ClNO
reactant | methyl 3,3-dimethoxypropionate | 3.7 g | COC(CC(=O)OC)OC | C6H12O4
reactant | p-toluenesulfonic acid hydrate | 0.19 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | methyl 4-(2-chlorophenyl)-6,8-dimethyl-3-quinolinecarboxylate | 1.90 g, 58.5% | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)C(=O)OC | C19H16ClNO2
